US05541169
2.4 g (20 mmol) of 3-nitro-2-butanol was dissolved in 10 ml of dimethylformamide, 4.08 g (60 mmol) of imidazole and 4.52 g (30 mmol) of tert-butyldimethylsilyl chloride were added under ice cooling, and the mixture was stirred at room temperature for 6 hours. After the reaction, the reaction solution was poured into 100 ml of ice water, and the mixture was extracted with diethyl ether. The organic layer was washed successively with 2N hydrochloric acid, saturated sodium bicarbonate solution and saturated saline, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane-benzene=10:1) to give 4.73 g of 3-nitro-2-(tert-butyldimethylsilyloxy)butane as a colorless oil (yield: quantitative).

reactant | 3-nitro-2-butanol | 20 mmol, 2.4 g | [N+](=O)([O-])C(C(C)O)C | C4H9NO3
reactant | imidazole | 60 mmol, 4.08 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 30 mmol, 4.52 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-nitro-2-(tert-butyldimethylsilyloxy)butane | 4.73 g, yield: quantitative | [N+](=O)([O-])C(C(C)O[Si](C)(C)C(C)(C)C)C | C10H23NO3Si
